US07910595B2
4-(4-tert-Butoxycarbonylamino-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid methyl ester
A suspension of N′-(3-cyano-6-isopropyl-pyridin-2-yl)-N,N-dimethyl-formamidine (2.00 g, 9.3 mmol) and 3-amino-4-(4-tert-butoxycarbonylamino-phenylsulfanyl)-benzoic acid methyl ester (3.46 g, 9.3 mmol) in AcOH (40 mL) was heated at 120° C. for 20 minutes under N2. After cooling to room temperature, the reaction mixture was portioned between AcOEt (150 mL) and H2O (200 mL), and then made basic to pH 9 with K2CO3 under stirring. The organic layer was separated, washed with 10% NaHCO3, H2O and brine, dried over MgSO4, and evaporated to give pale brown oil. The oily residue was separated by silica gel column chromatography (AcOEt/n-hexane=5/1) to give yellow crystal. Further purification by washing with cold AcOEt (15 mL) gave the title compound as slightly yellow crystal (3.27 g, 65%).

reactant | N′-(3-cyano-6-isopropyl-pyridin-2-yl)-N,N-dimethyl-formamidine | 9.3 mmol, 2.00 g | C(#N)C=1C(=NC(=CC1)C(C)C)N=CN(C)C | C12H16N4
reactant | 3-amino-4-(4-tert-butoxycarbonylamino-phenylsulfanyl)-benzoic acid methyl ester | 9.3 mmol, 3.46 g | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C19H22N2O4S
reactant | AcOEt | 150 mL | CCOC(=O)C | C4H8O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | AcOH | 40 mL | CC(=O)O | C2H4O2
solvent | H2O | 200 mL | O | H2O
product | 4-(4-tert-Butoxycarbonylamino-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)NC(=O)OC(C)(C)C)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C)=O | C29H31N5O4S
